US07723369B2
4-(2,4-Dichloro-phenyl)-1-(4-nitro-phenyl)-2-(4-bromo-benzyl)-1H-imidazole (5.0 g, 10 mmol) was reduced to amine and was reacted with methyl bromoacetate following general procedures D & E to give {4-[2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester.

reactant | 4-(2,4-Dichloro-phenyl)-1-(4-nitro-phenyl)-2-(4-bromo-benzyl)-1H-imidazole | 10 mmol, 5.0 g | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)Br | C22H14BrCl2N3O2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | {4-[2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C25H20BrCl2N3O2
